US05310723
This compound was prepared in a manner analogous to that of Step D of Example 1, using 6.8 grams (0.013 mole) of 2-chloro-2-trifluoromethyl-3-[5-fluoro-2-nitro-4-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)phenyl]propanoic acid, 7.0 grams (0.130 g-atom) of iron powder, and 20 mL of water in 100 mL of acetic acid, yielding 3.2 grams of 3-(3-chloro-6-fluoro-3,4-dihydro-3-trifluoromethylquinolin-2-on-7-yl)-1-methyl-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | 2-chloro-2-trifluoromethyl-3-[5-fluoro-2-nitro-4-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)phenyl]propanoic acid | 0.013 mole, 6.8 grams | ClC(C(=O)O)(CC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-])C(F)(F)F | C16H9ClF7N3O6
reactant | water | 20 mL | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 7.0 grams | [Fe] | Fe
product | 3-(3-chloro-6-fluoro-3,4-dihydro-3-trifluoromethylquinolin-2-on-7-yl)-1-methyl-6-trifluoromethyluracil | 3.2 grams | ClC1(C(NC2=CC(=C(C=C2C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)=O)C(F)(F)F | C16H9ClF7N3O3
